US04474814
Preparation of 3-(4-nitrobenzoyl)-1,3-thiazolidine-2-thione
To a solution of 4-nitrobenzoyl chloride (3.1 g) and tetrahydrofuran (50 ml) were added 1,3-thiazolidine-2-thione (2.0 g) and triethyl amine (2.5 g). The mixture was stirred at 50° C. for 30 minutes under nitrogen atmosphere. The reaction mixture was filtered and the solvent was removed at a reduced pressure. To the residue was added water, and the solution is extracted with dichloromethane. The extract was washed with a saturated aqueous solution of sodium chloride and dried with use of Glauber's salt. The solvent was distilled off and the resulting crystals were purified by silica gel column chromatography (developer: dichloromethane) and recrystallized from dichloromethane to obtain 3.3 g of the desired compound as yellow needle crystals (yield 82.5%).

reactant | 4-nitrobenzoyl chloride | 3.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 1,3-thiazolidine-2-thione | 2.0 g | S1C(NCC1)=S | C3H5NS2
solvent | triethyl amine | 2.5 g | C(C)N(CC)CC | C6H15N
product | 3-(4-nitrobenzoyl)-1,3-thiazolidine-2-thione | 3.3 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C(SCC2)=S)C=C1 | C10H8N2O3S2
